US08193378B2
To DMF (1 mL) was added dropwise POCl3 (0.25 mL) at 0° C., followed by stirring at room temperature for 30 minutes. To the reaction mixture was added dropwise a solution of 7-(benzyloxy)-4-methyl 2H-chromene (280 mg) in DCM (1 mL), followed by stirring at room temperature for 3 hours. The reaction liquid was poured into ice-water, followed by extraction with EtOAc three times. The organic layer was combined, washed with water and brine in this order, dried over MgSO4, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (automatic purification device, hexane:EtOAc=85:15 to 70:30) to obtain 7-(benzyloxy)-4-methyl-2H-chromene-3-carbaldehyde (234 mg) as a pale yellow powder.

reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | POCl3 | 0.25 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 7-(benzyloxy)-4-methyl 2H-chromene | 280 mg | C(C1=CC=CC=C1)OC1=CC=C2C(=CCOC2=C1)C | C17H16O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 7-(benzyloxy)-4-methyl-2H-chromene-3-carbaldehyde | 234 mg | C(C1=CC=CC=C1)OC1=CC=C2C(=C(COC2=C1)C=O)C | C18H16O3
